US07671055B2
Step A Synthesis of 2-bromo-1,3-dichloro-5-methoxybenzene as an intermediate
A solution of 5.0 grams (0.028 mole) of 1,3-dichloro-5-methoxybenzene (commercially available) in 35 mL of acetone was stirred and 5.0 grams (0.028 mole) of N-bromosuccinimide, then one mL of aqueous 10% hydrochloric acid were added. Upon completion of additions the reaction mixture was stirred at ambient temperature during a 30-minute period. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was slurried in 20 mL of hexane and an insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, yielding 4.8 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 1,3-dichloro-5-methoxybenzene | 0.028 mole, 5.0 grams | ClC1=CC(=CC(=C1)OC)Cl | C7H6Cl2O
reactant | N-bromosuccinimide | 0.028 mole, 5.0 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 2-bromo-1,3-dichloro-5-methoxybenzene | 4.8 grams | BrC1=C(C=C(C=C1Cl)OC)Cl | C7H5BrCl2O
